US08633312B2
2-Bromomethyl-3-methoxybenzoic acid (1)
for the synthesis of the title compound, 6.64 g (0.040 mol) of 3-methoxy-2-methylbenzoic acid, 7.1 g (0.040 mol) of NBS and 0.25 g of AIBN in 150 ml of chlorobenzene are reacted by method H (variant 1).

reactant | 3-methoxy-2-methylbenzoic acid | 0.040 mol, 6.64 g | COC=1C(=C(C(=O)O)C=CC1)C | C9H10O3
reactant | NBS | 0.040 mol, 7.1 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | AIBN | 0.25 g | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
solvent | chlorobenzene | 150 ml | ClC1=CC=CC=C1 | C6H5Cl
product | 2-Bromomethyl-3-methoxybenzoic acid | BrCC1=C(C(=O)O)C=CC=C1OC | C9H9BrO3
